US08455521B2
Step 3. 2-((1S,2R)-1-cyclopentyl-1-hydroxy-3-(methylamino)propan-2-yl)isoindoline-1,3-dione
A solution of (2S,3S)-3-cyclopentyl-3-hydroxy-2-(1,3-dioxoisoindolin-2-yl)propanal (1.339 g, 4.7 mmol) in dry THF (20 mL) was cooled to 0° C. Acetic acid (2.5 mL, 44 mmol), methylamine (33% in EtOH, 2.5 mL, 20 mmol), and NaHB(OAc)3 (4.4937 g, 21.3 mmol) were added sequentially in single portions. The ice bath was removed and the mixture was stirred for 2 h at rt. The solvent was stripped and the crude 2-((1S,2R)-1-cyclopentyl-1-hydroxy-3-(methylamino)propan-2-yl)isoindoline-1,3-dione was used directly in the next step. LC-MS (3 min) tR=1.07, m/z=303 (M+1).

reactant | (2S,3S)-3-cyclopentyl-3-hydroxy-2-(1,3-dioxoisoindolin-2-yl)propanal | 4.7 mmol, 1.339 g | C1(CCCC1)[C@@H]([C@@H](C=O)N1C(C2=CC=CC=C2C1=O)=O)O | C16H17NO4
reactant | Acetic acid | 44 mmol, 2.5 mL | C(C)(=O)O | C2H4O2
reactant | methylamine | 20 mmol, 2.5 mL | CN | CH5N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-((1S,2R)-1-cyclopentyl-1-hydroxy-3-(methylamino)propan-2-yl)isoindoline-1,3-dione | C1(CCCC1)[C@@H]([C@@H](CNC)N1C(C2=CC=CC=C2C1=O)=O)O | C17H22N2O3
